US08119633B2
Morpholino-(1,4-dioxa-spiro[4.5]dec-8-yl)-acetonitrile (NR1R2=morpholine)
KCN (0.17 mol) and morpholine (14.7 g, 0.17 mol) were added to a solution of 1,4-dioxa-spiro[4.5]decane-8-carboxaldehyde (0.141 mol) in a mixture of ethanol (141 ml) and water (70 ml), and stirring was carried out for 72 h at 25° C. After addition of ethyl acetate (700 ml), the organic phase was separated off and washed in succession with water (4×150 ml) and aqueous FeSO4 solution (4×150 ml). The organic phase was separated off and dried over Na2SO4 and then filtered off. The solvent was removed in vacuo, and the product was used in the next stage without being purified further.

reactant | KCN | 0.17 mol | [C-]#N.[K+]
reactant | morpholine | 0.17 mol, 14.7 g | N1CCOCC1 | C4H9NO
reactant | 1,4-dioxa-spiro[4.5]decane-8-carboxaldehyde | 0.141 mol | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 141 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
product | Morpholino-(1,4-dioxa-spiro[4.5]dec-8-yl)-acetonitrile | O1CCN(CC1)C(C#N)C1CCC2(OCCO2)CC1 | C14H22N2O3
